US07754729B2
Tert-butyl 4-((4-(3-ethynylphenylamino)quinazolin-6-ylcarbamoyl)methylene)piperidine-1-carboxylate
1 g of 2-(1-(tert-butyloxycarbonyl)piperidine-4-ylidene)acetic acid was added to 20 mL of anhydrous THF in a one-neck flask (100 mL). The solution was stirred and cooled on salt-ice bath. Then, 0.6 mL of isobutyl chloroformate and 0.5 mL of N-methylmorpholine were added, and the reaction mixture was let stir for 20 min. 1.046 g of N4-(3-ethynylphenyl)quinazoline-4,6-diamine dissolved in 10 mL of pyridine (dried over molecular sieves) and 0.4 mL of N-methylmorpholine were added to the reaction mixture on an ice bath with stirring. After reaction completion, the solvent was evaporated in vacuo and the remaining residue was partitioned with chloroform and water. The chloroform layer was washed once with brine, dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a crude product. The crude product was recrystallized from isopropanol. MS (EI) 482 M+.

reactant | 2-(1-(tert-butyloxycarbonyl)piperidine-4-ylidene)acetic acid | 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC(=O)O | C12H19NO4
reactant | isobutyl chloroformate | 0.6 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | N4-(3-ethynylphenyl)quinazoline-4,6-diamine | 1.046 g | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C16H12N4
reactant | N-methylmorpholine | 0.4 mL | CN1CCOCC1 | C5H11NO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Tert-butyl 4-((4-(3-ethynylphenylamino)quinazolin-6-ylcarbamoyl)methylene)piperidine-1-carboxylate | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(=O)C=C1CCN(CC1)C(=O)OC(C)(C)C | C28H29N5O3
